US08536179B2
1-Isopropyl-6-(methylsulfonyl)-1H-indole-4-carboxylic acid
To a 10-mL microwave tube were added methyl 6-bromo-1-(1-methylethyl)-1H-indole-4-carboxylate (160 mg, 0.540 mmol), sodium methanesulfinate (80 mg, 0.702 mmol), DMSO (2 mL), and N,N′-dimethyl-1,2-ethanediamine (6.19 mg, 0.070 mmol), and the mixture was degassed for 5 min by bubbling N2. Copper(I) trifluoromethanesulfonate benzene complex (25.6 mg, 0.043 mmol) was added and the mixture was heated to 165° C. for 2 h with stirring. The mixture was filtered and the DMSO solution was purified using reverse-phase HPLC to give 14 mg of product as white solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.51 (d, J=4.00 Hz, 6H), 4.90-5.11 (m, 1H), 7.13 (d, J=3.03 Hz, 1H), 7.98-8.08 (m, 1H), 8.15-8.23 (m, 1H), 8.32-8.46 (m, 1H), 13.19 (br. s., 1H). MS: (M+H)+=281.9.

reactant | methyl 6-bromo-1-(1-methylethyl)-1H-indole-4-carboxylate | 0.540 mmol, 160 mg | BrC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)OC | C13H14BrNO2
reactant | sodium methanesulfinate | 0.702 mmol, 80 mg | CS(=O)[O-].[Na+]
reactant | N,N′-dimethyl-1,2-ethanediamine | 0.070 mmol, 6.19 mg | CNCCNC | C4H12N2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 1-Isopropyl-6-(methylsulfonyl)-1H-indole-4-carboxylic acid | 14 mg | C(C)(C)N1C=CC=2C(=CC(=CC12)S(=O)(=O)C)C(=O)O | C13H15NO4S
